US06166006
To a solution of 2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (35.0 g, 0.126 mol) in tetrahydrofuran (THF) (280 ml) were added (COCl)2 (21.9 ml, 0.251 mol) and DMF (0.7 ml) at 0° C. Under nitrogen atmosphere, the mixture was stirred at room temperature for 4 hours. After the reaction completed, The solvent was evaporated, and to the residue was added THF (315 ml). To a solution of the acid chloride was added a solution of 4-(2-tetrahydropyranyloxymethyl)aniline (28.1 g, 0.138 mol) and triethylamine (Et3N) (26.3 ml, 0.189 mol) in THF (105 ml) at 0° C., and the mixture was stirred under nitrogen atmosphere, at room temperature for 2 hours. After the reaction completed, to the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaCl solution and dried with MgSO4. The solvent was evaporated and the residue was dissolved in methanol (MeOH) (470 ml). To the mixture was dropwise added 6N HCl (5.9 ml) at room temperature, and the mixture was stirred for 1 hour. After the reaction completed, the mixture was neutralized with saturated NaHCO3 solution, and the solvent was removed. The residue was washed with water and then acetone/isopropylether (10:1; 60 ml), and the resulting precipitate was filtered, which was dissolved in THF. The mixture was dried with MgSO4, and the solvent was evaporated. The resulting powder was washed twice with hexane:ethyl acetate (10:1; 50 ml) to give N-(4-hydroxymethylphenyl)-3-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-6-carboxamide (26.8 g, 56%) as white powder.

reactant | 2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 0.126 mol, 35.0 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCC2)C(=O)O)C1 | C19H18O2
reactant | (COCl)2 | 0.251 mol, 21.9 ml | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | 4-(2-tetrahydropyranyloxymethyl)aniline | 0.138 mol, 28.1 g | O1C(CCCC1)OCC1=CC=C(N)C=C1 | C12H17NO2
reactant | triethylamine | 0.189 mol, 26.3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | THF | 105 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
product | N-(4-hydroxymethylphenyl)-3-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-6-carboxamide | 26.8 g, 56% | OCC1=CC=C(C=C1)NC(=O)C1CC2=C(C=CC1)C=CC(=C2)C2=CC=C(C=C2)C | C26H25NO2
